US05395932
1-[(Benzyloxy)methyl]-2,4,5-tribromoimidazole (38)
Tribromoimidazole (2.0 g, 6.6 mmol) in 25 mL of DMF solution was treated with powdered K2CO3 (12.7 g, 91.6 mmol). To the vigorously stirring suspension was added dropwise benzyl chloromethyl ether (1.4 g, 9.2 mmol). After 18 hours, the reaction mixture was filtered. The filtrate was concentrated in vacuo. The residue was chromatographed as described previously. The product was used immediately in Example 39.

reactant | Tribromoimidazole | 6.6 mmol, 2.0 g | BrC1=C(N=C(N1)Br)Br | C3HBr3N2
reactant | K2CO3 | 91.6 mmol, 12.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloromethyl ether | 9.2 mmol, 1.4 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-[(Benzyloxy)methyl]-2,4,5-tribromoimidazole | C(C1=CC=CC=C1)OCN1C(=NC(=C1Br)Br)Br | C11H9Br3N2O
